US08106232B2
c. trans-(7-Cyano-1,1-diethyl-3-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid tert-butyl ester
Trifluoro-methanesulfonic acid 7-tert-butoxycarbonylamino-8,8-diethyl-6-methoxy-5,6,7,8-tetrahydro-naphthalen-2-yl ester (236.6 g, 0.49 mol) was dissolved in N,N-dimethylformamide (851 mL, 10.99 mol) and water (23.8 mL, 1.32 mol) at room temperature. The solution was purged with nitrogen for 5 min, and then connected to house vacuum for 5 min. Nitrogen purging and exposure to vacuum was repeated twice. To the reaction mixture was added zinc cyanide (34.2 g, 0.29 mol), tris(dibenzylideneacetone)dipalladium(0) (4.4 g, 4.8 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (5.4 g, 9.7 mmol) with stirring. The reaction mixture was purged with nitrogen for 5 min, heated under nitrogen at 110° C. for 1 h, cooled to room temperature and then filtered through celite. The filtered reaction mixture was added slowly to water (3 L), cooled to 0° C. with stirring, stirred for 30 min at 0° C., and then filtered. The filter cake was washed with water (500 mL) and dried in air for 2 h, slurried in ethanol (1 L) with stirring over 1 h, and then filtered to give the title compound (165.0 g, >96% purity). The filtrate was dried (21.6 g) and dissolved in ethanol (110 mL) with stirring over 1 h, and the resulting slurry was filtered and dried under vacuum to give additional product (10.2 g, >98% purity).

reactant | Trifluoro-methanesulfonic acid 7-tert-butoxycarbonylamino-8,8-diethyl-6-methoxy-5,6,7,8-tetrahydro-naphthalen-2-yl ester | 0.49 mol, 236.6 g | C(C)(C)(C)OC(=O)NC1C(CC=2C=CC(=CC2C1(CC)CC)OS(=O)(=O)C(F)(F)F)OC | C21H30F3NO6S
reactant | N,N-dimethylformamide | 10.99 mol, 851 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 0.29 mol, 34.2 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 4.8 mmol, 4.4 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 9.7 mmol, 5.4 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 3 L | O | H2O
solvent | water | 1.32 mol, 23.8 mL | O | H2O
product | trans-(7-Cyano-1,1-diethyl-3-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid tert-butyl ester | 165.0 g, >96% | C(C)(C)(C)OC(N[C@@H]1C(C2=CC(=CC=C2C[C@H]1OC)C#N)(CC)CC)=O | C21H30N2O3
